US07030128B2
3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2-(6-bromopyridin-2-yl)-4-fluorobenzonitrile as in Example 1 to give 4-fluoro-2-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]benzonitrile as a pale pink solid (16 mg, 14%): δH (400 MHz, CDCl3) 7.29-7.32 (1H, m), 7.40 (1H, d, J 7), 7.53 (1H, dd, J 9 and 2), 7.66 (1H, dd, J 8 and 1), 7.88-8.03 (3H, m), 8.59 (1H, s), 10.56 (1H, d, J 7).

reactant | 3-Tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 2-(6-bromopyridin-2-yl)-4-fluorobenzonitrile | BrC1=CC=CC(=N1)C1=C(C#N)C=CC(=C1)F | C12H6BrFN2
product | 4-fluoro-2-[6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-yl]benzonitrile | 16 mg, 14% | FC1=CC(=C(C#N)C=C1)C1=NC(=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C19H9F4N5
